US04017492
In the manner given in Example 13, 7-chloro-2-hydrazino-5-phenyl-3H-1,4-benzodiazepine can be stirred with 2-oxo-3-pyrrolidinopropionic acid at room temperature to give 7-chloro-2-[(1-carboxy-2-pyrrolidinoethylidene)-hydrazino]-5-phenyl-3H-1,4-benzodiazepine.

reactant | 7-chloro-2-hydrazino-5-phenyl-3H-1,4-benzodiazepine | ClC=1C=CC2=C(C(=NCC(=N2)NN)C2=CC=CC=C2)C1 | C15H13ClN4
reactant | 2-oxo-3-pyrrolidinopropionic acid | O=C(C(=O)O)CN1CCCC1 | C7H11NO3
product | 7-chloro-2-[(1-carboxy-2-pyrrolidinoethylidene)-hydrazino]-5-phenyl-3H-1,4-benzodiazepine | ClC=1C=CC2=C(C(=NCC(=N2)NN=C(CN2CCCC2)C(=O)O)C2=CC=CC=C2)C1 | C22H22ClN5O2
